US06350771B1
A mixture of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde (2.74 g), hydroxylamine hydrochloride (0.99 g) and pyridine (1.68 g) was stirred in methanol at 46° C. for 2.8 hours, evaporated, washed (water) and crystallized from ethanol to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (1.74 g) as a white solid m.p. 2.19-221° C. (decomposition). Compound 1.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde | 2.74 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=O)S(=O)C | C12H8Cl2F3N3O2S
reactant | hydroxylamine hydrochloride | 0.99 g | Cl.NO
reactant | pyridine | 1.68 g | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 1.74 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
